US08580762B2
Step 3: Synthesis of (3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)methanol
To a solution of methyl 3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutanecarboxylate (1.0 g, 2.31 mmol) in THF (40 ml) was added LiAlH4 (0.53 g, 13.89 mmol) at 0° C. and the mixture was stirred overnight. Water (1.0 g) and 15% NaOH solution (3.0 g) were added slowly to the mixture and upon stirring for 15 min, the mixture was filtered. The filtrate was concentrated to obtain the crude title compound which was used directly in the next step.

reactant | methyl 3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutanecarboxylate | 2.31 mmol, 1.0 g | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)C(=O)OC)C | C20H28N6O5
reactant | LiAlH4 | 13.89 mmol, 0.53 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Water | 1.0 g | O | H2O
reactant | NaOH | 3.0 g | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | (3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)methanol | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CO)C | C19H28N6O4
